US06858627B2
6-(4-Methoxyphenyl)-2,2-dimethyl-4-phenethylsulfanylmethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 4-methoxyphenylboronic acid. Bromination and coupling reaction with 2-phenylethanethiol gave 15 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 2-phenylethanethiol | C1(=CC=CC=C1)CCS | C8H10S
product | 6-(4-Methoxyphenyl)-2,2-dimethyl-4-phenethylsulfanylmethyl-1,2-dihydroquinoline | 15 mg | COC1=CC=C(C=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CSCCC1=CC=CC=C1 | C27H29NOS
